* ===========================================================================
* qal_gate_dr_probe.cir -- dual-rail ECRL cell: logic check + the T4(c) GO/NO-GO.
*
* T4(c) is the test that decides whether the whole QAL power-delivery story
* stands: qal_twobank.py:24-32 says a FIXED Cfly top-up only lands every bank at
* dV if the per-bank charge is DATA-INDEPENDENT. Measured on transistors,
* single-rail draw is 100 % data-modulated and dual-rail 0 %
* (qal_a1f_inductive.py:76). So the fitted dual-rail cell must draw the same rail
* charge for EVERY input pattern, to within 2 %. If it does not, the fixed top-up
* is invalid. This is a GO/NO-GO, not a tolerance.
*
* Patterns are selected by .param AV / BV (0 or 1); the complements are derived,
* so the deck always presents a legal dual-rail input. run_dr_probe.py walks all
* four and compares EDRAWN across them.
*
* Expected logic (matches the transistor reference qal_ecrl_gate.py:59-64):
*     yt = a AND b ,  yf = NAND(a,b)   evaluated at the rail hold.
*
* Deck rules as in qal_gate_probe.cir: absolute .hdl path, UIC mandatory,
* source names distinct from node names, no '$' comments on .measure lines
* (MEASURED: a trailing '$' comment makes Xyce reject the .measure outright).
* ===========================================================================
.hdl "/usr/local/src/stat-sim/qal/va/probe_runs/dr_all.va"

.param TR=1000p
.param AV=1 BV=1
.param VDD=1.2 CYF=10e-15 ESC=1e15
.param ANV={1-AV} BNV={1-BV}
.param H={2*TR} TEND={5*TR} TMEAS={4.8*TR} THOLD={2*TR}

.model qmd dr_all RON_N=2.5e3 RON_P=5.0e3 VTN=0.35 VTP=0.35
+ VREF=1.2 CY=10f CIN=2f CS=0.1f GM0=1e-12 ESCALE=1e15

VPC pc 0 PWL(0 0 {TR} {VDD} {TR+H} {VDD} {2*TR+H} 0 {TEND} 0)
VA  a  0 {AV*VDD}
VAN an 0 {ANV*VDD}
VB  b  0 {BV*VDD}
VBN bn 0 {BNV*VDD}

YDR_ALL X1 a an b bn yt yf pc 0 ed er eq 0 qmd

* live closure identity: stranded charge now sits on BOTH output rails
BEST n_BEST 0 V={0}
BECLO n_BECLO 0 V={0}
BEDRW n_BEDRW 0 V={0}

.tran {TR/200} {TEND} UIC

.measure tran YTSET  FIND V(yt)   AT={THOLD}
.measure tran YFSET  FIND V(yf)   AT={THOLD}
.measure tran YTEND  FIND V(yt)   AT={TMEAS}
.measure tran YFEND  FIND V(yf)   AT={TMEAS}
.measure tran EDISS  FIND V(ed)   AT={TMEAS}
.measure tran ERAIL  FIND V(er)   AT={TMEAS}
.measure tran ERET   FIND V(eq)   AT={TMEAS}
.measure tran EDRAWN FIND V(edrw) AT={TMEAS}
.measure tran ESTORE FIND V(est)  AT={TMEAS}
.measure tran ECLOSE FIND V(eclo) AT={TMEAS}

.end
